US06320051B1
a) 2-(3-Aminoprop-1-ylamino)-4-ethoxyquinoline
To 2-chloro-4-ethoxyquinoline (J. Chem. Soc. Perkin Trans. 1, 1993, 181; 323 mg, 1.56 mmol) was added 1,3-diaminopropane (3.9 ml, 47 mmol). The mixture was stirred under argon at 60° C. for 48 h. Excess diamine was removed in vacuo to leave a cream residue which was purified by flash chromatography on silica gel eluting with 6% (9:1 MeOH/NH3) in DCM to give the title compound as a white solid (294 mg, 77%): δH (CD3OD) 1.49 (3H, t), 1.79 (2H, m), 2.74 (2H, t), 3.51 (2H, t), 4.13 (2H, q), 6.09 (1H, s), 7.12 (1H, t), 7.45 (1H, t), 7.55 (1H, d), 7.90 (1H, d); MS (APCI−) 244 (100%, [M−H]−), 216 (34).

reactant | 2-chloro-4-ethoxyquinoline | 1.56 mmol, 323 mg | ClC1=NC2=CC=CC=C2C(=C1)OCC | C11H10ClNO
reactant | 1,3-diaminopropane | 47 mmol, 3.9 ml | NCCCN | C3H10N2
product | 2-(3-Aminoprop-1-ylamino)-4-ethoxyquinoline | 294 mg, 77% | NCCCNC1=NC2=CC=CC=C2C(=C1)OCC | C14H19N3O
